US08202885B2
To a solution of 0.94 g of 3-(3,4-diethoxy-phenyl)-propionic acid ethyl ester in 6 mL EtOH were added 0.59 g of LiOH.H2O dissolved in 3 mL H2O and 5 mL MeOH. The mixture was stirred at rt for 30 min. The reaction mixture was then concentrated in vacuo and the residue was partitioned between water and Et2O. The aq. layer was separated and acidified with 1N HCl. The resulting white solid was filtrated and dried to yield 0.67 g of 3-(3,4-diethoxy-phenyl)-propionic acid as white solid.

reactant | 3-(3,4-diethoxy-phenyl)-propionic acid ethyl ester | 0.94 g | C(C)OC(CCC1=CC(=C(C=C1)OCC)OCC)=O | C15H22O4
reactant | LiOH.H2O | 0.59 g | O[Li].O
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | H2O | 3 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(3,4-diethoxy-phenyl)-propionic acid | 0.67 g | C(C)OC=1C=C(C=CC1OCC)CCC(=O)O | C13H18O4
